US03988457
To a suspension of 2.7 g. of lithium aluminum hydride in 75 ml. of dry ether is added dropwise a solution containing 5.5 g. of 6-methyl-2-naphthoic acid in 75 ml. of dry ether. The mixture is refluxed for three hours, cooled, and treated with 10% sodium hydroxide solution. The mixture is then filtered and dried to yield 6-methyl-2-naphthalenemethanol.

reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 6-methyl-2-naphthoic acid | CC=1C=C2C=CC(=CC2=CC1)C(=O)O | C12H10O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ether | CCOCC | C4H10O
product | 6-methyl-2-naphthalenemethanol | CC=1C=C2C=CC(=CC2=CC1)CO | C12H12O
